US07714009B2
N2-[2-(3-Bromopropoxy)-4-chlorophenyl]-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine
To a solution of 100 mg (0.27 mmol) of 5-chloro-2-(7-dipropylamino-1-methyl-1H-benzimidazol-2-ylamino)phenol in 4 mL of tetrahydrofuran was added 77 mg (0.30 mmol) of triphenylphosphine and 51 mg (0.30 mmol) of diethylazodicarboxylate and the reaction mixture was stirred for 90 minutes at room temperature. To the reaction mixture was added 41 mg (0.30 mmol) of 3-bromopropan-1-ol and the reaction was stirred overnight. The reaction was concentrated in vacuo and the resulting residue was purified by flash chromatography eluting with 20% ethyl acetate/hexanes to give 100 mg (76%) of the title compound.

reactant | 5-chloro-2-(7-dipropylamino-1-methyl-1H-benzimidazol-2-ylamino)phenol | 0.27 mmol, 100 mg | ClC=1C=CC(=C(C1)O)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C20H25ClN4O
reactant | triphenylphosphine | 0.30 mmol, 77 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.30 mmol, 51 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-bromopropan-1-ol | 0.30 mmol, 41 mg | BrCCCO | C3H7BrO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N2-[2-(3-Bromopropoxy)-4-chlorophenyl]-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine | 100 mg, 76% | BrCCCOC1=C(C=CC(=C1)Cl)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C23H30BrClN4O
